US07517873B2
A mixture of 0.12 g (0.00042 mole) of 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.469 g (0.00144 mole) of cesium carbonate, 0.135 g (0.00096 mole) of iodomethane and 1 mL of dimethylformamide was stirred overnight at ambient temperature and then diluted with 5 mL of water. The mixture was stirred for 15 minutes and the solid was collected by filtration to give 2-chloro-9-cyclohexyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20) which was used without further purification.

reactant | 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00042 mole, 0.12 g | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCCCC2)N1 | C13H17ClN4O
reactant | cesium carbonate | 0.00144 mole, 0.469 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.00096 mole, 0.135 g | IC | CH3I
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
product | 2-chloro-9-cyclohexyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | ClC=1N=CC2=C(N(CCC(N2C)=O)C2CCCCC2)N1 | C14H19ClN4O
